US04094840
(B) 17-[[(Acetyloxy)methyl]thio]-9-fluoro-11β-hydroxyandrosta-1,4,16-trien-3-one
A mixture of 1.5 g of 9-fluoro-11β-hydroxy-17-(methylsulfinyl)androsta-1,4,16-trien-3-one, 70 ml of acetic anhydride and 2 g of fused sodium acetate is heated at 110° C under nitrogen for 2 hours. The acetic anhydride is partially removed by distillation under vacuum and the resulting slurry is diluted with 1:1 chloroform-water. The organic layer is separated, washed with diluted sodium bicarbonate solution, water, dried over anhydrous sodium sulfate and evaporated in vacuo. The residue is dissolved in 4:1 chloroform-hexane and chromatographed on a 40 g-silica gel column. Elution with 1:4 hexane-chloroform gives 940 mg of slightly impure material. Two crystallizations from acetone-hexane give 350 mg of the title compound, melting point 193°-194° C, with consistent spectral data.

reactant | 9-fluoro-11β-hydroxy-17-(methylsulfinyl)androsta-1,4,16-trien-3-one | 1.5 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC=C([C@@]1(C)C[C@@H]2O)S(=O)C)=O)C | C20H25FO3S
reactant | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 17-[[(Acetyloxy)methyl]thio]-9-fluoro-11β-hydroxyandrosta-1,4,16-trien-3-one | 350 mg | C(C)(=O)OCSC=1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O | C22H27FO4S
